US06528543B1
A solution of 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester and 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid ethyl ester (268 mg) and methyl urea (110 mg, 1.5 mmol) in magnesium methoxide in methanol (7.4 wt %, 1.6 mL, 1.1 mmol) was heated to 100° C. for 8 h. At this time, the reaction was concentrated in vacuo. The residue was then dissolved in ethyl acetate (50 mL), filtered through a plug of silica gel, and washed with ethyl acetate (100 mL). The filtrate was concentrated in vacuo. Flash chromatography (Merck Silica gel 60, 230-400 mesh, 60/40 hexanes/ethyl acetate) afforded 1-[2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea (55 mg, 19% yield) as a white foam: FAB-HRMS m/e calcd for C17H23ClN2O4S (M+H)+387.1145, found 387.1156.

reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid methyl ester | COC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C16H21ClO4S
reactant | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionic acid ethyl ester | 268 mg | C(C)OC(C(CC1CCCC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C17H23ClO4S
reactant | methyl urea | 1.5 mmol, 110 mg | CNC(=O)N | C2H6N2O
reactant | methanol | 1.1 mmol, 1.6 mL | CO | CH4O
solvent | magnesium methoxide | C[O-].[Mg+2].C[O-]
product | 1-[2-(3-chloro-4-methanesulfonyl-phenyl)-3-cyclopentyl-propionyl]-3-methyl-urea | 55 mg, 19% yield | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)NC(=O)NC)CC1CCCC1 | C17H23ClN2O4S
